US04431828
(-)-3-Aminomethylpinane HCl, 9.5 g (46.6 mmole), ethyl acetate (186 ml) and 1 N NaOH (93 ml) were stirred vigorously for 10 minutes. The organic layer was separated, washed 1×93 ml H2O, dried (MgSO4) and stripped to yield (-)-3-aminomethylpinane free base as an oil, 7.75 g (99%) [alpha]D25 =-54.85° (c=1 in methanol), which was then dissolved in 20 ml methanol.

reactant | (-)-3-Aminomethylpinane HCl | Cl.NCC1C(C2C(C(C1)C2)(C)C)C
reactant | NaOH | 1 N, 93 ml | [OH-].[Na+]
solvent | ethyl acetate | 186 ml | C(C)(=O)OCC | C4H8O2
product | (-)-3-aminomethylpinane | NCC1C(C2C(C(C1)C2)(C)C)C | C11H21N
